US08097759B2
5-Bromo-N-(5-methyl-4-phenylthiazol-2-yl)-2-hydroxybenzamide (Compound No. 188)
Using 5-bromosalicylic acid and 2-amino-5-methyl-4-phenylthiazole as the raw materials, the same operation as the example 16 gave the title compound. (2-Amino-5-methyl-4-phenylthiazole: refer to Yakugaku Zasshi, 1961, 81, 1456.)

reactant | 5-bromosalicylic acid | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | 2-amino-5-methyl-4-phenylthiazole | NC=1SC(=C(N1)C1=CC=CC=C1)C | C10H10N2S
product | 5-Bromo-N-(5-methyl-4-phenylthiazol-2-yl)-2-hydroxybenzamide | BrC=1C=CC(=C(C(=O)NC=2SC(=C(N2)C2=CC=CC=C2)C)C1)O | C17H13BrN2O2S
